US07288537B2
A solution of (S)-2-tert-butoxycarbonylamino-succinic acid 1-benzyl ester (5.0 g, 13.99 mmol) in dichloromethane (50 ml) is treated with diisopropylethylamine (7.51 ml, 41.97 mmol) and 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl-uronium tetrafluoroborate (4.49 g, 13.99 mmol). To the reaction mixture is added 3-(4-chloro-phenoxy)-azetidine hydrochloride (3.06 g, 13.99 mmol) and stirring continued for 3 hours. The dichloromethane is evaporated and residue partitioned between ethylacetate and saturated NaHCO3 solution. The ethylacetate phase is washed with 1M HCl solution and brine, dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with 1:1 ethylacetate/hexane) to afford (S)-2-tert-butoxycarbonylamino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]4-oxo-butyric acid benzyl ester. [M-BOC] 389.0.

reactant | (S)-2-tert-butoxycarbonylamino-succinic acid 1-benzyl ester | 13.99 mmol, 5.0 g | C(C1=CC=CC=C1)OC([C@H](CC(=O)O)NC(=O)OC(C)(C)C)=O | C16H21NO6
reactant | diisopropylethylamine | 41.97 mmol, 7.51 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl-uronium tetrafluoroborate | 13.99 mmol, 4.49 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-(4-chloro-phenoxy)-azetidine hydrochloride | 13.99 mmol, 3.06 g | Cl.ClC1=CC=C(OC2CNC2)C=C1
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-2-tert-butoxycarbonylamino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]4-oxo-butyric acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CC(=O)N1CC(C1)OC1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C25H29ClN2O6
